US05972937
1-Methoxy-4-nitro-2-trifluoromethylbenzene (D26)
Sodium (11.78 g, 0.512 mol) was dissolved in dry methanol (1 l) and to the resulting solution was added a solution of 1-chloro-4-nitro-2-trifluoromethyl-benzene (96.22 g, 0.427 mol) in methanol (100 ml). The reaction mixture was refluxed for 3 h then cooled and evaporated in vacuo. The residue was partitioned between water (500 ml) and dichloromethane (3×400 ml). The combined organic extracts were dried (Na2SO4) and evaporated to give the title compound (93.76 g, 99%) as a white solid.

reactant | Sodium | 0.512 mol, 11.78 g | [Na] | Na
reactant | 1-chloro-4-nitro-2-trifluoromethyl-benzene | 0.427 mol, 96.22 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | methanol | 1 l | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
product | 1-Methoxy-4-nitro-2-trifluoromethylbenzene | 93.76 g, 99% | COC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO3
